US07875639B2
A mixture of 4,5-Dimethylthiazol-2-ylamine (20 mg, 0.16 mmol) and 1-bromo-2-(2-methoxyethoxy)ethane (0.20 mmol) was heated at 80° C. overnight to afford 3-[2-(2-methoxyethoxy)-ethyl]-4,5-dimethyl-1,3-thiazol-2(3H)-ylideneamine hydrobromide, which was used without purification. The alkylated thiazolylidine hydrobromide (1.25 equiv), 1-adamantane carboxylic acid (1.0 equiv), polymer-bound dicyclohexylcarbodiimide (PS-DCC, 3 equiv), 1-hydroxybenzotriazole hydrate (HOBT, 1 equiv), N,N-diisopropylethylamine (3 equiv), were combined in dimethylacetamide (DMA, 2.8 mL) and heated in a microwave to 100° C. for 420 seconds. The mixture was filtered through Si-Carbonate (6 mL-1 g cartridge from Silicycle Chemical Division, MeOH wash) and then concentrated to dryness. Purification by reverse phase HPLC afforded the title compound. 1H NMR (DMSO-d6, 500 MHz) δ ppm 11.68 (q, J=12.27 Hz, 6 H) 1.84 (d, J=2.50 Hz, 6 H) 1.94-2.02 (m, 3 H) 2.16 (s, 3 H) 2.22 (s, 3 H) 3.19 (s, 3 H) 3.39 (dd, J=5.62, 3.74 Hz, 2 H) 3.51 (dd, J=5.62, 3.74 Hz, 2 H) 3.73-3.77 (m, 2 H) 4.25 (t, J=5.46 Hz, 2 H); MS (ESI) m/z 393 (M=H)+.

reactant | 4,5-Dimethylthiazol-2-ylamine | 0.16 mmol, 20 mg | CC=1N=C(SC1C)N | C5H8N2S
reactant | 1-bromo-2-(2-methoxyethoxy)ethane | 0.20 mmol | BrCCOCCOC | C5H11BrO2
product | 3-[2-(2-methoxyethoxy)-ethyl]-4,5-dimethyl-1,3-thiazol-2(3H)-ylideneamine hydrobromide | Br.COCCOCCN1C(SC(=C1C)C)=N | InChI=1S/C10H18N2O2S.BrH/c1-8-9(2)15-10(11)12(8)4-5-14-7-6-13-3;/h11H,4-7H2,1-3H3;1H
